US09428510B2
3.4 ml (36.2 mmol) of phosphoryl chloride and a drop of concentrated sulfuric acid are added to 0.315 g (0.906 mmol) of 2-chloro-5-(N-(3,5-difluorophenyl) sulfamoyl)nicotinamide. The reaction mixture is stirred for 2 hours at 90° C. and then added drop by drop to ice. The brown solid is filtered, rinsed with water and then dried under vacuum. 0.217 g of 6-chloro-5-cyano-N-(3,5-difluorophenyl)pyridine-3-sulfonamide is obtained in the form of a light brown solid (yield=72%).

reactant | phosphoryl chloride | 36.2 mmol, 3.4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-chloro-5-(N-(3,5-difluorophenyl) sulfamoyl)nicotinamide | 0.906 mmol, 0.315 g | ClC1=C(C(=O)N)C=C(C=N1)S(NC1=CC(=CC(=C1)F)F)(=O)=O | C12H8ClF2N3O3S
product | 6-chloro-5-cyano-N-(3,5-difluorophenyl)pyridine-3-sulfonamide | 0.217 g | ClC1=C(C=C(C=N1)S(=O)(=O)NC1=CC(=CC(=C1)F)F)C#N | C12H6ClF2N3O2S
